US06716851B2
4-(3,4-Methylenedioxyanilino)-2-(2-pyrazinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(2-pyrazinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.192 mmol) and 3,4-methylenedioxyaniline (39 mg, 0.288 mmol) similar to Example 76 and isolated as a pink solid (21 mg, 30%). 1H NMR (CDCl3): 9.72 (d, J=1.2 Hz, 1H), 8.76 (dd, J=1.5, 2.7 Hz, 1H), 8.71 (d, J=2.7 Hz, 1H), 7.60 (s, 1H), 6.88 (s, 1H), 6.87 (d, J=8.1 Hz, 1H), 6.83 (s, 1H), 6.78 (dd, J=1.8, 8.1 Hz, 1H), 6.05 (s, 2H).

reactant | 4-chloro-2-(2-pyrazinyl)-6-(trifluoromethyl)pyrimidine | 0.192 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=NC=CN=C1 | C9H4ClF3N4
reactant | 3,4-methylenedioxyaniline | 0.288 mmol, 39 mg | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
product | 4-(3,4-Methylenedioxyanilino)-2-(2-pyrazinyl)-6-(trifluoromethyl)pyrimidine | C1OC=2C=C(NC3=NC(=NC(=C3)C(F)(F)F)C3=NC=CN=C3)C=CC2O1 | C16H10F3N5O2
